
.SUBCKT Chain_FO1 IN1 ZN9 VDD GND 
*.PININFO I:I ZN:O VDD:P VNW:P VPW:P VSS:G 
*.ORDERING_0_PUP M_i_1 VDD ZN
*.ORDERING_0_PDN M_i_0 GND ZN
*.EQN ZN=!IN
M_1_0 ZN1 IN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_1_1 ZN1 IN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_2_0 ZN2 ZN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_2_1 ZN2 ZN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_3_0 ZN3 ZN2 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_3_1 ZN3 ZN2 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_4_0 ZN4 ZN3 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_4_1 ZN4 ZN3 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_5_0 ZN5 ZN4 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_5_1 ZN5 ZN4 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_6_0 ZN6 ZN5 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_6_1 ZN6 ZN5 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_7_0 ZN7 ZN6 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_7_1 ZN7 ZN6 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_8_0 ZN8 ZN7 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_8_1 ZN8 ZN7 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_9_0 ZN9 ZN8 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_9_1 ZN9 ZN8 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
.ENDS 

********************************************************************************
*
* END
*
********************************************************************************
