
.SUBCKT Chain_FO4 IN1 ZN9 VDD GND 
*.PININFO I:I ZN:O VDD:P VNW:P VPW:P VSS:G 
*.ORDERING_0_PUP M_i_1 VDD ZN
*.ORDERING_0_PDN M_i_0 GND ZN
*.EQN ZN=!IN
M_1_0 ZN1 IN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_1_1 ZN1 IN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_2_0 ZN2 ZN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_2_1 ZN2 ZN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_3_0 ZN3 ZN2 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_3_1 ZN3 ZN2 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_4_0 ZN4 ZN3 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_4_1 ZN4 ZN3 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_5_0 ZN5 ZN4 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_5_1 ZN5 ZN4 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_6_0 ZN6 ZN5 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_6_1 ZN6 ZN5 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_7_0 ZN7 ZN6 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_7_1 ZN7 ZN6 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_8_0 ZN8 ZN7 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_8_1 ZN8 ZN7 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_9_0 ZN9 ZN8 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_9_1 ZN9 ZN8 VDD VDD pfet W=0.288000U L=0.020000U nfin=2

M_1_2 ZN12 IN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_1_3 ZN12 IN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_2_2 ZN22 ZN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_2_3 ZN22 ZN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_3_2 ZN32 ZN2 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_3_3 ZN32 ZN2 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_4_2 ZN42 ZN3 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_4_3 ZN42 ZN3 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_5_2 ZN52 ZN4 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_5_3 ZN52 ZN4 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_6_2 ZN62 ZN5 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_6_3 ZN62 ZN5 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_7_2 ZN72 ZN6 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_7_3 ZN72 ZN6 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_8_2 ZN82 ZN7 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_8_3 ZN82 ZN7 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_9_2 ZN92 ZN8 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_9_3 ZN92 ZN8 VDD VDD pfet W=0.288000U L=0.020000U nfin=2

M_1_4 ZN13 IN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_1_5 ZN13 IN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_2_4 ZN23 ZN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_2_5 ZN23 ZN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_3_4 ZN33 ZN2 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_3_5 ZN33 ZN2 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_4_4 ZN43 ZN3 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_4_5 ZN43 ZN3 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_5_4 ZN53 ZN4 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_5_5 ZN53 ZN4 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_6_4 ZN63 ZN5 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_6_5 ZN63 ZN5 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_7_4 ZN73 ZN6 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_7_5 ZN73 ZN6 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_8_4 ZN83 ZN7 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_8_5 ZN83 ZN7 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_9_4 ZN93 ZN8 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_9_5 ZN93 ZN8 VDD VDD pfet W=0.288000U L=0.020000U nfin=2

M_1_6 ZN14 IN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_1_7 ZN14 IN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_2_6 ZN24 ZN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_2_7 ZN24 ZN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_3_6 ZN34 ZN2 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_3_7 ZN34 ZN2 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_4_6 ZN44 ZN3 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_4_7 ZN44 ZN3 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_5_6 ZN54 ZN4 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_5_7 ZN54 ZN4 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_6_6 ZN64 ZN5 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_6_7 ZN64 ZN5 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_7_6 ZN74 ZN6 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_7_7 ZN74 ZN6 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_8_6 ZN84 ZN7 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_8_7 ZN84 ZN7 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_9_6 ZN94 ZN8 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_9_7 ZN94 ZN8 VDD VDD pfet W=0.288000U L=0.020000U nfin=2




.ENDS 

********************************************************************************
*
* END
*
********************************************************************************
