
.SUBCKT TestGATEC IN1 ZN1 IN2 ZN2 IN3 ZN3 IN4 ZN4 VDD GND 
*.PININFO I:I ZN:O VDD:P VNW:P VPW:P VSS:G 
*.ORDERING_0_PUP M_i_1 VDD ZN
*.ORDERING_0_PDN M_i_0 GND ZN
*.EQN ZN=!IN
M_i_0 ZN1 IN1 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_i_1 ZN1 IN1 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_i_2 ZN2 IN2 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_i_3 ZN2 IN2 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_i_4 ZN3 IN3 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_i_5 ZN3 IN3 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_i_6 ZN4 IN4 GND GND nfet W=0.288000U L=0.020000U nfin=2
M_i_7 ZN4 IN4 VDD VDD pfet W=0.288000U L=0.020000U nfin=2
.ENDS 

********************************************************************************
*
* END
*
********************************************************************************
